US06919331B2
A mixture of 2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-5 carboxylic acid (42 mg, 0.1 mmol), EDC (23 mg, 0.12 mmol), DMAP (14 mg, 0.12 mmol) and dimethylamine (1M in THF, 0.12 mL) was stirred for 12 h at ambient temperature. The solvent was evaporated and the residue purified by prep-HPLC (gradient 10%-100% B) to give 22 mg (49%) of 2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-5-carboxylic acid dimethylamide as a white solid.

reactant | 2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-5 carboxylic acid | 0.1 mmol, 42 mg | C(C)(C)N1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC(=C1)C(=O)O)=O | C24H28N4O3
reactant | EDC | 0.12 mmol, 23 mg
reactant | dimethylamine | 1M, 0.12 mL | CNC | C2H7N
catalyst | DMAP | 0.12 mmol, 14 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-5-carboxylic acid dimethylamide | 22 mg, 49% | CN(C(=O)C1=CC2=C(N(C(=N2)CN2C(N(C3=C2C=CC=C3)C(C)C)=O)CCC(C)C)C=C1)C | C26H33N5O2
